US04673686
N-(1-cyclohexylmethyl-3-pyrrolidinyl)-2,3-dimethoxy-5-sulphamoyl benzamide
7.85 g of 2,3-dimethoxy-5-sulphamoyl benzoic acid, 50 ml of acetone, 10 ml of water and 3 g of triethylamine are placed in a 250 ml flask fitted with an agitator, a thermometer and a dropping funnel. The mixture is cooled to 0° and 4.2 g of isobutyl chloroformate is poured in drop by drop. The mixture is agitated for 45 minutes at 0° C., after which 6 g of 1-cyclohexylmethyl-3-amino-pyrrolidine is dripped in. It is agitated for 2 hours at room temperature, then 80 ml of water is added and the acetone evaporated under vacuum. The product crystallises. It is filtered, washed with water then re-dissolved in 150 ml of water and 20 ml of hydrochloric acid. The solution is filtered with charcoal and the filtrate made alkaline with ammonia. An oil is precipitated and crystallises slowly. The crystals are drained, washed with water and dried in an oven at 50° C. 6.8 g (53%) of product is obtained, with a melting point of 167° C.

reactant | 2,3-dimethoxy-5-sulphamoyl benzoic acid | 7.85 g | COC1=C(C(=O)O)C=C(C=C1OC)S(N)(=O)=O | C9H11NO6S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | isobutyl chloroformate | 4.2 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 1-cyclohexylmethyl-3-amino-pyrrolidine | 6 g | C1(CCCCC1)CN1CC(CC1)N | C11H22N2
solvent | water | 80 ml | O | H2O
solvent | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
solvent | water | 10 ml | O | H2O
product | N-(1-cyclohexylmethyl-3-pyrrolidinyl)-2,3-dimethoxy-5-sulphamoyl benzamide | 6.8 g, 53% | C1(CCCCC1)CN1CC(CC1)NC(C1=C(C(=CC(=C1)S(N)(=O)=O)OC)OC)=O | C20H31N3O5S
